US05643878
d: 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(phenylmethyl)-dihydrofuran-2-(3H)-one
Analogously to Example 21 D) 1)c), 2.47 g (6.0 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]-dihydrofuran-2-(3H)-one dissolved in 12 ml of THF and 1.2 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone are deprotonated at -70° C. with 11.73 ml of lithium bis(trimethylsilyl)amide 1M in THF and alkylated (75 min) with 0.713 ml (6.0 mmol) of benzyl bromide in 3 ml of THF. Column chromatography (SiO2, hexane/ethyl acetate 4:1→2:1) and crystallisation from ether/hexane yields the pure title compound: TLC Rf (D)=0.36.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]-dihydrofuran-2-(3H)-one | 6.0 mmol, 2.47 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C24H29NO5
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1.2 ml | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | lithium bis(trimethylsilyl)amide | 1M, 11.73 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl bromide | 6.0 mmol, 0.713 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(phenylmethyl)-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=CC=C1 | C31H35NO5
